US04728658
N-[4-chloro-3-(trifluoromethyl)phenyl]-4-pyridinecarboxamide-1-oxide
A suspension of isonicotinic acid 1-oxide (4.16 g, 29.9 mmol) and 1,1'-Carbonyldiimidazole (5.33 g, 32.9 mmol) in dry dimethylformamide (50 ml) was stirred for 40 minutes under an air-lock and treated with 4-chloro-3-trifluoromethylbenzenamine (6.43 g, 32.9 mmol). The reaction mixture was heated at 100° for 5.3 hours and cooled to room temperature. The solution was evaporated in vacuo and the residue triturated with ethanol (2×20 ml) to give the title compound (5.379 g), m.p. 263°-265°.

reactant | isonicotinic acid 1-oxide | 29.9 mmol, 4.16 g | C(C1=CC=[N+](C=C1)[O-])(=O)O | C6H5NO3
reactant | 1,1'-Carbonyldiimidazole | 32.9 mmol, 5.33 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-chloro-3-trifluoromethylbenzenamine | 32.9 mmol, 6.43 g | ClC1=C(C=C(C=C1)N)C(F)(F)F | C7H5ClF3N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-[4-chloro-3-(trifluoromethyl)phenyl]-4-pyridinecarboxamide-1-oxide | 5.379 g | ClC1=C(C=C(C=C1)NC(=O)C1=CC=[N+](C=C1)[O-])C(F)(F)F | C13H8ClF3N2O2
